US07112697B1
n-Butyl 4-Bromophenyl Sulfide (entry 9, Table 3):
The general procedure was used to convert 4-iodo bromobenzene and n-butyl sulfide to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (450 mg, 92% yield). 1H NMR (300 MHz, CDCl3) δ 7.39–7.36 (d, J=8.6, 2H; Ha, Ha′), 7.19–7.15 (d, J=8.28, 2H; Hb, Hb′), 2.91–2.86 (t, J=7.1, 2H; Hc), 1.57–1.47 (m, 2H; Hd), 1.41–1.31 (m, 2H; He), 0.94–0.89 (t, J=7.3, 3H; Hf). 13C NMR (75 MHz, CDCl3) δ 136.2 (C4), 131.7 (C1, C1′), 130.2 (C2, C2′), 119.2 (C3), 33.2 (C5), 30.9 (C6), 21.8 (C7), 13.5 (C8). Anal. Calcd. for C10H13Br C, 48.99; H, 5.34; S, 13.08; Found C, 49.09; H, 5.44; S, 12.96.

reactant | 4-iodo bromobenzene | IC1=CC=C(C=C1)Br | C6H4BrI
reactant | n-butyl sulfide | C(CCC)SCCCC | C8H18S
product | n-Butyl 4-Bromophenyl Sulfide | BrC1=CC=C(C=C1)SCCCC | C10H13BrS
